US09315458B2
D) methyl 5-bromo-3-chloro-2-hydroxy-4-(trifluoromethyl)benzoate
To a solution of methyl 3-chloro-2-hydroxy-4-(trifluoromethyl)benzoate (6.30 g) in DMF (65.0 mL) was added N-bromosuccinimide (4.41 g), and the mixture was stirred at 15° C. for 16 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (7.00 g).

reactant | methyl 3-chloro-2-hydroxy-4-(trifluoromethyl)benzoate | 6.30 g | ClC=1C(=C(C(=O)OC)C=CC1C(F)(F)F)O | C9H6ClF3O3
reactant | N-bromosuccinimide | 4.41 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | DMF | 65.0 mL | CN(C)C=O | C3H7NO
product | methyl 5-bromo-3-chloro-2-hydroxy-4-(trifluoromethyl)benzoate | 7.00 g | BrC=1C(=C(C(=C(C(=O)OC)C1)O)Cl)C(F)(F)F | C9H5BrClF3O3
